US07276612B2
Methyl 4-(2-aminoethylsulfanyl)benzoate hydrochloride (0.248 g, 1.00 mmol), was combined with benzofuran-2-carboxylic acid (0.162 g, 1.00 mmol) and HBTU (0.379 g, 1.00 mmol) in DMF (5 ml) at room temperature. Triethylamine (0.307 ml, 2.2 mmol) was added and the reaction mixture was stirred at room temperature overnight. Saturated aqueous NaHCO3 (15 ml) was added to give precipitates which was broken up by the addition of water (20 ml). The solid was filtered and the cake was dissolved in ethyl acetate. The residual water was removed by pipette and hexane was added to give methyl 4-{2-[(benzofuran-2-yl-carbonyl)-amino]ethylsulfanyl}benzoate (0.138 g) as a gum which was used in the next step without further purification.

reactant | Methyl 4-(2-aminoethylsulfanyl)benzoate hydrochloride | 1.00 mmol, 0.248 g | Cl.NCCSC1=CC=C(C(=O)OC)C=C1
reactant | benzofuran-2-carboxylic acid | 1.00 mmol, 0.162 g | O1C(=CC2=C1C=CC=C2)C(=O)O | C9H6O3
reactant | HBTU | 1.00 mmol, 0.379 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Triethylamine | 2.2 mmol, 0.307 ml | C(C)N(CC)CC | C6H15N
reactant | NaHCO3 | 15 ml | C(=O)(O)[O-].[Na+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | methyl 4-{2-[(benzofuran-2-yl-carbonyl)-amino]ethylsulfanyl}benzoate | 0.138 g | O1C(=CC2=C1C=CC=C2)C(=O)NCCSC2=CC=C(C(=O)OC)C=C2 | C19H17NO4S
